US07517874B2
Step 1: Preparation of 2-(tert-butoxycarbonylamino)-3-fluoro-3-methylbutanoic acid (66A).
2-Amino-3-fluoro-3-methylbutanoic acid (211 mg, 1.56 mmol) was suspended in methanol (5 mL) and treated with triethylamine (0.48 mL, 3.44 mmol) and di-tert-butyl dicarbonate (0.44 mL, 1.87 mmol). The reaction mixture was stirred for 18 hours then was concentrated under reduced pressure. The residue was dissolved in water, and the aqueous solution was brought to pH 2-3 with 1N aqueous hydrochloric acid solution and was extracted with 3:1 chloroform/isopropanol. The organic layers were combined, dried (Na2SO4), and concentrated under reduced pressure to a colorless oil. The oil was dried in a 40° C. vacuum oven overnight and crystallized into a white solid 66A (290 mg, 79%). 1H-NMR (400 MHz, (CD3)2SO) δ: 1.34 (d, 3H), 1.38 (s, 9H), 1.40 (d, 3H), 4.14 (dd, 1H), 7.09 (d, 1H), 12.80 (broad s, 1H).

reactant | 2-Amino-3-fluoro-3-methylbutanoic acid | 1.56 mmol, 211 mg | NC(C(=O)O)C(C)(C)F | C5H10FNO2
reactant | triethylamine | 3.44 mmol, 0.48 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.87 mmol, 0.44 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 5 mL | CO | CH4O
product | 2-(tert-butoxycarbonylamino)-3-fluoro-3-methylbutanoic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C(C)(C)F | C10H18FNO4
